US05021434
0.3 g of 2-[1-(1-imidazolyl)-butyl]-4-bromothiophene is dissolved in 5 ml of N-methylpyrrolidine and mixed with 0.3 g of copper(I) cyanide and stirred for 5 hours at 180° C. Then the reaction mixture is poured into 100 ml of dilute ammonia solution and extracted with ethyl acetate. The ethyl acetate phase is concentrated by evaporation in a vacuum and distilled on a bulb tube, boiling point 180° C./0.03 mbar. 0.190 g of 2-[1-(1-imidazolyl)-butyl]-thiophene-4-carbonitrile is obtained.

reactant | 2-[1-(1-imidazolyl)-butyl]-4-bromothiophene | 0.3 g | N1(C=NC=C1)C(CCC)C=1SC=C(C1)Br | C11H13BrN2S
reactant | copper(I) cyanide | 0.3 g | [Cu]C#N
reactant | ammonia | 100 ml | N | H3N
solvent | N-methylpyrrolidine | 5 ml | CN1CCCC1 | C5H11N
product | 2-[1-(1-imidazolyl)-butyl]-thiophene-4-carbonitrile | 0.190 g | N1(C=NC=C1)C(CCC)C=1SC=C(C1)C#N | C12H13N3S
